US04464379
Production of 1-(p-chlorobenzoyl)-5-methoxy-2-methyl-3-indol acetic acid-2-pyridylmethylthioester according to process embodiment (b)
6.5 g. (0.018 mol.) of 1-(p-chlorobenzoyl)-5-methoxy-2-methyl-3-indol acetic acid are dissolves in 60 ml. of chloroform. After the addition of 2.9 g. (0.023 mol.) of 2-mercaptomethylpyridine and 4.9 g. (0.023 mol.) of N,N'-dicyclohexyl carbodiimide, the reaction mixture is stirred for 24 hours with the exclusion of moisture. The precipitated material is filtered off and the solvent of the resulting solution is distilled in a vacuum. The resulting residue is subjected to chromatography over a silicic acid gel column using a 1:1-mixture of chloroform and hexane as eluant.

reactant | 1-(p-chlorobenzoyl)-5-methoxy-2-methyl-3-indol acetic acid | 0.018 mol | ClC1=CC=C(C(=O)N2C(=C(C3=CC(=CC=C23)OC)CC(=O)O)C)C=C1 | C19H16ClNO4
reactant | 2-mercaptomethylpyridine | 0.023 mol | SCC1=NC=CC=C1 | C6H7NS
reactant | N,N'-dicyclohexyl carbodiimide | 0.023 mol | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(p-chlorobenzoyl)-5-methoxy-2-methyl-3-indol acetic acid-2-pyridylmethylthioester | N1=C(C=CC=C1)CSOC(CC1=C(N(C2=CC=C(C=C12)OC)C(C1=CC=C(C=C1)Cl)=O)C)=O | C25H21ClN2O4S
